US06703392B2
2-[1-(3,4-dimethoxy-benzyl)-6-ethoxy-7-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-benzyl-acetamide:
prepared by reaction of 2-[1-(3,4-dimethoxy-benzyl)-6-hydroxy-7-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-benzyl-acetamide with ethyl iodide

reactant | 2-[1-(3,4-dimethoxy-benzyl)-6-hydroxy-7-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-benzyl-acetamide | COC=1C=C(CC2N(CCC3=CC(=C(C=C23)OC)O)CC(=O)NCC2=CC=CC=C2)C=CC1OC | C28H32N2O5
reactant | ethyl iodide | C(C)I | C2H5I
product | 2-[1-(3,4-dimethoxy-benzyl)-6-ethoxy-7-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-benzyl-acetamide | COC=1C=C(CC2N(CCC3=CC(=C(C=C23)OC)OCC)CC(=O)NCC2=CC=CC=C2)C=CC1OC | C30H36N2O5
